US09126976B2
3-(1,1,2,2-tetrafluoroethoxy)benzoic acid (10 g, 42.0 mmol) was dissolved in DMF (200 mL) and Hunig's Base (20.54 mL, 118 mmol). Benzotriazol-1-yl-oxy-tris-(dimethylamino)phosphonium hexafluorophosphate (BOP, 27.9 g, 63.0 mmol) and N-methoxy-N-methylamine hydrochloride (4.51 g, 46.2 mmol) were added to the reaction flask, and the resulting reaction mixture was stirred at 25° C. overnight. Crude reaction mixture was concentrated and purified on a silica gel column (340 g cartridge 0-10% EtOAc/Hexanes gradient) to afford N-methoxy-N-methyl-3-(1,1,2,2-tetrafluoroethoxy)benzamide. 1H NMR (400 MHz, CDCl3) δ 3.38 (s, 3H), 3.57 (s, 3H), 5.95 (t, J=52.9, 2.9 Hz, 1H), 7.33 (d, J=8.1 Hz, 1H), 7.45 (t, J=7.9 Hz, 1H), 7.58 (s, 1H), 7.63 (d, J=7.7 Hz, 1H).

reactant | 3-(1,1,2,2-tetrafluoroethoxy)benzoic acid | 42.0 mmol, 10 g | FC(C(F)F)(OC=1C=C(C(=O)O)C=CC1)F | C9H6F4O3
reactant | Hunig's Base | 118 mmol, 20.54 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | Benzotriazol-1-yl-oxy-tris-(dimethylamino)phosphonium hexafluorophosphate | 63.0 mmol, 27.9 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | N-methoxy-N-methylamine hydrochloride | 46.2 mmol, 4.51 g | Cl.CONC
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | N-methoxy-N-methyl-3-(1,1,2,2-tetrafluoroethoxy)benzamide | CON(C(C1=CC(=CC=C1)OC(C(F)F)(F)F)=O)C | C11H11F4NO3
